US06008230
A mixture of 4-chloromethyl-8-(2,6-dichlorobenzoylamino)-3-methoxymethylquinoline (70 mg) and potassium carbonate (26 mg) in 1,2-dimethoxyethane and methanol was refluxed for 2 hours. After cooling, the mixture was partitioned between saturated ammonium chloride solution and dichloromethane, and the organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography and crystallized from isopropyl alcohol to give 3,4-bis(methoxymethyl)-8-(2,6-dichlorobenzoylamino)quinoline (19.2 mg).

reactant | 4-chloromethyl-8-(2,6-dichlorobenzoylamino)-3-methoxymethylquinoline | 70 mg | ClCC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)COC | C19H15Cl3N2O2
reactant | potassium carbonate | 26 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | methanol | CO | CH4O
product | 3,4-bis(methoxymethyl)-8-(2,6-dichlorobenzoylamino)quinoline | 19.2 mg | COCC=1C=NC2=C(C=CC=C2C1COC)NC(C1=C(C=CC=C1Cl)Cl)=O | C20H18Cl2N2O3
